US05998436
Synthesis of ethyl 1-(5-amino-6-chloropyridin-3-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate
To a solution of 180 mg ethyl 3-[(5-amino-6-chloropyridin-3-yl)amino]-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate in 3 ml N,N-dimethylformamide was added 57 mg of potassium carbonate, and the mixture was stirred at room temperature for 2 hours. The reaction solution was poured into ice water, and extracted by adding ethyl acetate. The organic layer was separated and dried over magnesium sulfate, and the solvent was distilled off. The solid content was collected by filtration to obtain 125 mg of the title compound as a pale yellow powder.

reactant | ethyl 3-[(5-amino-6-chloropyridin-3-yl)amino]-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate | 180 mg | NC=1C=C(C=NC1Cl)NC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)Cl)F)=O | C17H12Cl2F3N3O3
reactant | potassium carbonate | 57 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | ethyl 1-(5-amino-6-chloropyridin-3-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 125 mg | NC=1C=C(C=NC1Cl)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)OCC | C17H11Cl2F2N3O3
